US06916837B2
The compound (t-butyl 2-(6-bromo-2-naphthyloxy)-4-nitrobenzoate) (1.78 g) obtained in a previous production example, zinc cyanide (0.33 g) and tetrakis(triphenylphosphine)palladium (0) (690 mg) were reacted for 12 hours at 100° C. in N,N-dimethylformamide. After cooling to room temperature, toluene and ethyl acetate were added, the organic layer was washed with 2 N ammonia water and saturated saline and dried over magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel chromatography (300 g, hexane:ethyl acetate=6:1) to obtain 1.14 g of t-butyl 2-(6-cyano-2-naphthyloxy)-4-nitrobenzoate.

reactant | t-butyl 2-(6-bromo-2-naphthyloxy)-4-nitrobenzoate | BrC=1C=C2C=CC(=CC2=CC1)OC1=C(C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C21H18BrNO5
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.33 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 690 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | t-butyl 2-(6-cyano-2-naphthyloxy)-4-nitrobenzoate | 1.14 g | C(#N)C=1C=C2C=CC(=CC2=CC1)OC1=C(C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C22H18N2O5
